US07612075B2
4-[2-(5-Chlorothiophen-2-yl)-ethenesulfonyl]-1-(2-pyrrolo[3 2-c]pyridin-1-ylethyl)-piperazin-2-one
4-(Benzyloxycarbonyl)-1-(2-pyrrolo[3,2-c]pyridin-1-ylethyl)-piperazin-2-one (0.028 g, 0.074 mmol), EXAMPLE 98, is treated with 4% HCO2H/MeOH (5 mL) and a catalytic amount of Pd black for 5 minutes. The reaction mixture is filtered washed with methanol and the filtrate is concentrated to a residue. The residue is treated with acetonitrile (3 mL) excess N-methylmorpholine (0.04 mL) and 2-(5-chlorothiophen-2-yl)ethene-sulfonyl chloride (0.018 g, 0.074 mmol), EXAMPLE 3, and processed as usual (EXAMPLE 719). Further chromatographic purification (NH4OH/MeOH/CH2Cl2: 1/4/95) yields the title compound: MS m/z 451, 453 (M+H); 1H NMR (CDCl3, 300 MHz) δ8.93 (bs, 1H), 8.24 (bs, 1H), 7.41 (d, 1H), 7.23 (d, 1H), 7.14 (m, 2H), 6.94 (d, 1H), 6.68 (d. 1H), 6.18 (d, 1H), 4.43 (t, 2H), 3.67 (t, 2H), 2.88 (t, 2H), 2.66 (t, 2H).

reactant | 4-(Benzyloxycarbonyl)-1-(2-pyrrolo[3,2-c]pyridin-1-ylethyl)-piperazin-2-one | 0.074 mmol, 0.028 g | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)CCN1C=CC=2C=NC=CC21)=O | C21H22N4O3
reactant | HCO2H MeOH | 5 mL | C(=O)O.CO
reactant | 2-(5-chlorothiophen-2-yl)ethene-sulfonyl chloride | 0.074 mmol, 0.018 g | ClC1=CC=C(S1)C=CS(=O)(=O)Cl | C6H4Cl2O2S2
catalyst | Pd | [Pd] | Pd
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | 4-[2-(5-Chlorothiophen-2-yl)-ethenesulfonyl]-1-(2-pyrrolo[3 2-c]pyridin-1-ylethyl)-piperazin-2-one | ClC1=CC=C(S1)C=CS(=O)(=O)N1CC(N(CC1)CCN1C=CC=2C=NC=CC21)=O | C19H19ClN4O3S2
